US07902394B2
(d) Ethyl 3-{3-[(1S)-1,2-dihydroxyethyl]-4,5-difluorophenyl}pentanoate
A solution of AD-mix-α (50.0 g), t-BuOH (250 mL), and H2O (280 mL) was stirred until no solid was observed and then cooled to 0° C. Ethyl 3-(3-ethenyl-4,5-difluorophenyl)pentanoate (12.58 g, 0.0469 mol) in t-BuOH (35 mL) and H2O (10 mL) was added and the reaction stirred at 0° C. for 6 h and then warmed to room temperature overnight. Sodium sulfite (64 g) was added to quench the reaction and the reaction was diluted with H2O and extracted three times with ethylacetate. The combined organic layers were dried over Na2SO4, filtered, and concentrated. Column chromatography (hexane:ethylacetate, 7:3) yielded the desired product (13.02 g, 92%).

reactant | AD-mix-α | 50.0 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Ethyl 3-(3-ethenyl-4,5-difluorophenyl)pentanoate | 0.0469 mol, 12.58 g | C(=C)C=1C=C(C=C(C1F)F)C(CC(=O)OCC)CC | C15H18F2O2
reactant | Sodium sulfite | 64 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 10 mL | O | H2O
reactant | H2O | 280 mL | O | H2O
solvent | t-BuOH | 35 mL | CC(C)(C)O | C4H10O
solvent | t-BuOH | 250 mL | CC(C)(C)O | C4H10O
product | Ethyl 3-{3-[(1S)-1,2-dihydroxyethyl]-4,5-difluorophenyl}pentanoate | 13.02 g, 92% | O[C@H](CO)C=1C=C(C=C(C1F)F)C(CC(=O)OCC)CC | C15H20F2O4
